US06723716B1
3-Triphenylmethylthio-2-(N-t-butoxycarbonylaminoethylthiomethyl)pyridine
Into a 3 L round bottom flask equipped with a mechanical stirrer, thermometer and nitrogen purge was charged 3-triphenylmethylthio-2-hydroxymethylpyridine (40.0 g, 0.104 mol, 1 eq.) followed by DMF (1.2 L). The solution was cooled to 0° C. and a pre-formed solution of thionyl chloride (12.4 g, 0.104 mol, 1.0 eq.) in DMF (200 mL) was charged dropwise over approximately 5 minutes. To this orange coloured solution was charged BOC-cysteamine (18.4 g, 0.104 mol, 1 eq.) followed by finely powdered potassium carbonate (43.1 g, 0.104 mol, 1 eq) and the resulting suspension was vigorously stirred for two hours until TLC analysis showed reaction completion (1:1 EtOAc/hexanes). The solution was poured into a 3 L of a 4:1 mixture of ice water/4:1 ethyl acetate-hexane. The aqueous was separated and extracted with an additional 200 mL of 4:1 ethyl acetate-hexane. The organics were combined and washed with water (2×200 mL) then brine (2×200 mL). The organic layer was dried with sodium sulfate, filtered and the solvent was removed in vacuo to give 54 grams of a brown oil. This oil was purified by column chromatography on silica gel to give 41 grams of the title compound as a light yellow oil. 1H NMR (CDCl3) δ 1.41 (s, 9H); 2.77 (t, 2H); 3.42 (t, 3H); 4.11 (s, 2H); 7.05-7.45 (m, 16H); 8.22 (d, 1H); 8.65 (d, 1H).

reactant | 3-triphenylmethylthio-2-hydroxymethylpyridine | 0.104 mol, 40.0 g, 1 eq. | C1(=CC=CC=C1)C(SC=1C(=NC=CC1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS
reactant | thionyl chloride | 0.104 mol, 12.4 g, 1.0 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | BOC-cysteamine | 0.104 mol, 18.4 g, 1 eq. | C(=O)(OC(C)(C)C)NCCS | C7H15NO2S
reactant | potassium carbonate | 0.104 mol, 43.1 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-Triphenylmethylthio-2-(N-t-butoxycarbonylaminoethylthiomethyl)pyridine | 54 grams | C1(=CC=CC=C1)C(SC=1C(=NC=CC1)CSCCNC(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H34N2O2S2
